US05223513
A mixture of 2-amino-5-chlorobenzophenone (6.93 g), diethyl malonate (7.2 g) and piperidine (0.3 ml) was heated at 170° C. for 4 hours. After cooling, isopropyl ether was added to the mixture to obtain crystals of ethyl 6-chloro-1,2-dihydro-2-oxo-4-phenyl-3-quinolinecarboxylate (7.77 g, 79.3%). The crystals was recrystallized from ethanol to give pale-yellowish needles. mp 223°-224° C.

reactant | 2-amino-5-chlorobenzophenone | 6.93 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | diethyl malonate | 7.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | ethyl 6-chloro-1,2-dihydro-2-oxo-4-phenyl-3-quinolinecarboxylate | 7.77 g, 79.3% | ClC=1C=C2C(=C(C(NC2=CC1)=O)C(=O)OCC)C1=CC=CC=C1 | C18H14ClNO3
